US05604213
(b) 3-[2,3,5,6-tetrafluoro-4-(trifluoromethyl)phenoxy]-17-(3-pyridyl)androsta-3,5,16-triene
The method essentially followed that of Example 1(b) but using diethyl(3-pyridyl)borane (0.44 g, 3.0 mmol), 3-[2,3,5,6-tetrafluoro-4-(trifluoromethyl)phenoxy]androsta-3,5,16-trien-17-yl trifluoromethanesulphonate (1.27 g, 2.0 mmol), THF (10 ml), bis(triphenylphosphine)palladium(II) chloride (70 mg, 0.1 mmol), and aqueous sodium carbonate (2M, 5 ml). Chromatography, on elution with light petroleum-diethyl ether (3:1), afforded the title compound (0.82 g, 73%) which crystallised from hexane, m.p. 166.0°-166.5° C. 1H-NMR (CDCl3) inter alia δ1.05(3H,s,19-CH3), 1.07(3H,s,18-CH3), 5.18(1H,s,4-H), 5.32(1H,m,6-H), 6.01(1H,m,16-H), 7.23(1H,m,Py 5-H), 7.66(1H,m,Py 4-H), 8.47(1H,m,Py 6-H), 8.63(1H,m,Py 2-H). Anal. Calcd: C, 66.07; H, 5.01; N, 2.49; F, 23.60. Found: C, 65.97; H, 5.02; N, 2.47; F, 23.41%.

reactant | diethyl(3-pyridyl)borane | 3.0 mmol, 0.44 g | C(C)B(C=1C=NC=CC1)CC | C9H14BN
reactant | 3-[2,3,5,6-tetrafluoro-4-(trifluoromethyl)phenoxy]androsta-3,5,16-trien-17-yl trifluoromethanesulphonate | 2.0 mmol, 1.27 g | FC(S(=O)(=O)OC=1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C=C(CC[C@]3(C)[C@H]1CC2)OC2=C(C(=C(C(=C2F)F)C(F)(F)F)F)F)(F)F | C27H24F10O4S
reactant | sodium carbonate | 2M, 5 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.1 mmol, 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-[2,3,5,6-tetrafluoro-4-(trifluoromethyl)phenoxy]-17-(3-pyridyl)androsta-3,5,16-triene | 0.82 g, 73% | FC1=C(OC2=CC3=CC[C@H]4[C@@H]5CC=C([C@@]5(C)CC[C@@H]4[C@]3(CC2)C)C=2C=NC=CC2)C(=C(C(=C1F)C(F)(F)F)F)F | C31H28F7NO
